US04808762
Under a nitrogen atmosphere, a stirred solution of 3.5 grams (0.019 mole) of 1-cyclopropyl-1-(4-chlorophenyl)ethene in 10 mL of distilled tetrahydrofuran was cooled to 0° C., and 29.5 mL (0.020 mole) of 0.68S M bis(3-methyl-2-butyl)borane in tetrahydrofuran was added via syringe during a 10 minute period. Upon completion of addition, the reaction mixture was stirred at 0° C. for 1.3 hours, at ambient temperature for 2.5 hours, and at 60° C. for 0.75 hour. The reaction mixture was cooled to 0° C., and 17 mL of methanol, 8.8 mL of aqueous 10% sodium hydroxide solution, and 8.0 mL of aqueous 30% hydrogen peroxide solution were sequentially added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was heated at 60° C. for 30 minutes and then was cooled, after which 30 mL of an aqueous solution saturated with potassium carbonate was added. The aqueous layer was separated and extracted with three 30 mL portions of diethyl ether. The organic materials were combined and washed with 30 mL of an aqueous, saturated potassium carbonate solution. The organic layer was dried with magnesium sulfate/potassium carbonate and filtered. The filtrate was concentrated under reduced pressure, yielding 3.8 grams of 2-cyclopropyl- 2-(4-chlorophenyl)ethanol. The nmr and ir spectra were consistent with the proposed structure.

reactant | 1-cyclopropyl-1-(4-chlorophenyl)ethene | 0.019 mole, 3.5 grams | C1(CC1)C(=C)C1=CC=C(C=C1)Cl | C11H11Cl
reactant | bis(3-methyl-2-butyl)borane | CC(C(C)BC(C)C(C)C)C | C10H23B
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 17 mL | CO | CH4O
product | 2-cyclopropyl- 2-(4-chlorophenyl)ethanol | 3.8 grams | C1(CC1)C(CO)C1=CC=C(C=C1)Cl | C11H13ClO
